2125-11-02 07:32:00 Physician Resident Progress Note
Chief Complaint: Hypoxia
   24 Hour Events:
   - Pt changed to PS and then changed to trach collar and tolerating
   - pt complaining for back pain
 INVASIVE VENTILATION - START [**2125-11-1**] 02:15 PM
   Allergies:
   Codeine
   Unknown;
   Compazine (Oral) (Prochlorperazine Maleate)
   Unknown;
   Penicillins
   Rash; itchiness
   Metformin
   Nausea/Vomiting
   Heparin Agents
   Unknown;
   Ativan (Oral) (Lorazepam)
   tachycardia;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2125-11-1**] 02:00 PM
   Morphine Sulfate - [**2125-11-2**] 05:52 AM
   Hydromorphone (Dilaudid) - [**2125-11-2**] 06:27 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Cardiovascular: No(t) Chest pain, No(t) Palpitations
   Respiratory: Cough, Dyspnea, No(t) Tachypnea, Wheeze
   Gastrointestinal: Abdominal pain, No(t) Nausea, No(t) Emesis, No(t)
   Diarrhea, No(t) Constipation
   Pain: [**5-15**] Moderate
   Pain location: back pain
   Flowsheet Data as of  [**2125-11-2**] 07:32 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.8
C (98.3
   HR: 88 (80 - 115) bpm
   BP: 104/73(80) {90/33(55) - 115/82(93)} mmHg
   RR: 18 (15 - 33) insp/min
   SpO2: 91%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 67 Inch
             Total In:
                                                                  1,103 mL
                                                                     73 mL
   PO:
             TF:
   IVF:
                                                                    103 mL
                                                                     73 mL
   Blood products:
   Total out:
                                                                  1,750 mL
                                                                    250 mL
   Urine:
                                                                  1,750 mL
                                                                    250 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -647 mL
                                                                   -177 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   Ventilator mode: Standby
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 270 (270 - 613) mL
   PS : 5 cmH2O
   RR (Set): 14
   RR (Spontaneous): 16
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 86
   PIP: 16 cmH2O
   SpO2: 91%
   ABG: 7.30/86/99.[**Numeric Identifier 128**]/40/12
   Ve: 5.8 L/min
   PaO2 / FiO2: 248
   Physical Examination
   General Appearance: No acute distress, uncomfortable
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, trach collar
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   , Wheezes : )
   Abdominal: Soft, No(t) Non-tender, Bowel sounds present, No(t)
   Distended, Tender: diffusely
   Extremities: Right: Absent, Left: Absent
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): x3, Movement: Purposeful, Tone: Not assessed
   Labs / Radiology
   302 K/uL
   11.0 g/dL
   131 mg/dL
   0.6 mg/dL
   40 mEq/L
   4.2 mEq/L
   9 mg/dL
   95 mEq/L
   140 mEq/L
   33.7 %
   11.0 K/uL
        [image002.jpg]
                            [**2125-11-1**]  01:54 PM
                            [**2125-11-1**]  02:51 PM
                            [**2125-11-2**]  04:38 AM
   WBC
   13.1
   11.0
   Hct
   35.9
   33.7
   Plt
   320
   302
   Cr
   0.6
   0.6
   TCO2
   44
   Glucose
   128
   131
   Other labs: PT / PTT / INR:12.5/30.6/1.1, Differential-Neuts:73.5 %,
   Lymph:11.3 %, Mono:9.7 %, Eos:5.0 %, Ca++:9.1 mg/dL, Mg++:2.0 mg/dL,
   PO4:3.6 mg/dL
   Assessment and Plan
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 RESPIRATORY FAILURE, CHRONIC
   Mr. [**Known lastname 6115**] is a 52 yo M w/ severe COPD requiring multiple ICU
   admissions for mechanical ventilation, tracheal stenosis s/p tracheal
   stent in [**8-16**] presenting w/ hypoxia after endoscopic U/S performed to
   eval pancreatic mass.
   .
   Plan:
   # Hypercarbic respiratory failure/Severe 02 dependent COPD: Pt w/ sx
   consistent with COPD maybe even prior to presentation for EUS. Desats
   to high 70s, and ABG showing hypercarbia to 86 (baseline 70s). Pt was
   placed in vent and weaned to PS overnight. No leukocytosis or fever to
   suggest infection. Pt still has wheezes and tight on exam.
   - Pt on trach collar
   - change SoluMedrol 125mg IV q8hr
   - Hold on abx for now
   - f/u Sputum cx
   - cont  albuterol/atrovent nebs (Q2 for now)
   - Cont. Advair
   .
   # Pancreatic mass: Per EUS appears to be consistent with IPMN without
   red flags for invasive disease.
   - F/u MRCP in 4 mos
   - GI to follow
   .
   #Chronic Back Pain: Pt with chronic back pain compliants.
   - will cont dilaudid q3 prn
   .
   # Multi-drug resistent pseudomonas: Likely colonized given chronic
   trach. no evidence of acute infection. Will check sputum cx to look for
   new organism
   .
   # Hepatitis B: No active treatment at this time. Outpt management
   .
   # Diabetes mellitus: Monitor QID FS, Insulin sliding scale
   .
   # FEN: Diabetic diet, replete lytes as needed
   .
   # PPx: On PPI for GERD, pneumoboots. No heparin products give ?allergy.
   No documented hx of HIT in OMR. Bowel regimen
   .
   # Access: PIV
   .
   # Code: Full, confirmed with patient and ICU consent signed
   .
   # Contact: [**Name (NI) 3728**] [**Name (NI) **] (mother) [**Telephone/Fax (1) 6117**]
   .
   #Dispo: Will cont to monitor respiratory status, ICU level of care for
   now.
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2125-11-1**] 02:27 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:
   VAP:
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition:ICU

2125-11-03 07:56:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - No acute events
   - Respiratory status stable on trach mask and 3L NC.
   Allergies:
   Codeine
   Unknown;
   Compazine (Oral) (Prochlorperazine Maleate)
   Unknown;
   Penicillins
   Rash; itchiness
   Metformin
   Nausea/Vomiting
   Heparin Agents
   Unknown;
   Ativan (Oral) (Lorazepam)
   tachycardia;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2125-11-2**] 08:00 PM
   Hydromorphone (Dilaudid) - [**2125-11-3**] 05:28 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Chest feels
tight, congested
 improving. Productive cough improving
   as well.
   Flowsheet Data as of  [**2125-11-3**] 07:49 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 37
C (98.6
   HR: 85 (77 - 115) bpm
   BP: 109/76(84) {92/40(54) - 119/78(88)} mmHg
   RR: 15 (12 - 25) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 67 Inch
                  Total In:
                                                                    331 mL
                                                                    200 mL
   PO:
                                                                    200 mL
                                                                    200 mL
   TF:
   IVF:
                                                                    131 mL
   Blood products:
   Total out:
                                                                    650 mL
                                                                    700 mL
   Urine:
                                                                    650 mL
                                                                    700 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -319 mL
                                                                   -500 mL
   Respiratory support
   Nasal canula, 3L
   Trach mask, 40%
   Physical Examination
   General: Sitting comfortably in chair, NAD
   Pulm: Decreased air movement diffusely; no wheezes or rales appreciated
   CV: RRR, normal S1/S2, no murmurs
   Abd: Normoactive bowel sounds, soft, nontender, not distended
   Ext: Trace pitting edema lower extremities bilaterally; erythematous
   area seen on shin of RLE; not warm to the touch
   Labs / Radiology
   326 K/uL
   11.4 g/dL
   139 mg/dL
   0.6 mg/dL
   35 mEq/L
   4.4 mEq/L
   16 mg/dL
   95 mEq/L
   137 mEq/L
   35.7 %
   19.2 K/uL
        [image002.jpg]
                            [**2125-11-1**]  01:54 PM
                            [**2125-11-1**]  02:51 PM
                            [**2125-11-2**]  04:38 AM
                            [**2125-11-3**]  05:59 AM
   WBC
   13.1
   11.0
   19.2
   Hct
   35.9
   33.7
   35.7
   Plt
   [**Telephone/Fax (3) 6161**]
   Cr
   0.6
   0.6
   0.6
   TCO2
   44
   Glucose
   128
   131
   139
   Other labs: PT / PTT / INR:12.5/30.6/1.1, Differential-Neuts:73.5 %,
   Lymph:11.3 %, Mono:9.7 %, Eos:5.0 %, Ca++:9.5 mg/dL, Mg++:2.2 mg/dL,
   PO4:2.9 mg/dL
   Assessment and Plan
 H/O CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS,
   EMPHYSEMA) WITH ACUTE EXACERBATION
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 RESPIRATORY FAILURE, CHRONIC
   52 yo M w/ severe COPD requiring multiple ICU admissions for mechanical
   ventilation, tracheal stenosis s/p tracheal stent in [**8-16**] presenting w/
   hypoxia after endoscopic U/S performed to eval pancreatic mass.
   # Hypercarbic respiratory failure/Severe 02 dependent COPD: Pt w/ sx
   consistent with COPD maybe even prior to presentation for EUS. Desats
   to high 70s, and ABG showing hypercarbia to 86 (baseline 70s). Patient
   taken off of ventilator yesterday. Afebrile. Leukocytosis this morning
   which may be secondary to high dose steroids.
   - Try to wean off of trach mask
 has 3-4L NC oxygen requirement at
   baseline; goal O2 sat 92-95%
   - Wean Solumedrol to 60mg Q8 hours
   - Continue to hold off on antibiotics as no clear indication of
   infection at this time
   - Monitor sputum culture
   - Cont albuterol Q2 hours prn
   - Cont ipratroprium Q6 hours standing
   - Cont Advair
   # Pancreatic mass: Per EUS appears to be consistent with IPMN without
   red flags for invasive disease.
   - F/u MRCP in 4 mos
   - GI to follow
   #Chronic Back Pain: Pt with chronic back pain compliants.
   - Will cont dilaudid q3 prn
   # Multi-drug resistent pseudomonas: Likely colonized given chronic
   trach. no evidence of acute infection. Will check sputum cx to look for
   new organism
   # Hepatitis B: No active treatment at this time. Outpt management
   # Diabetes mellitus: Monitor QID FS, Insulin sliding scale
   # FEN: Diabetic diet, replete lytes as needed
   # PPx: On PPI for GERD, pneumoboots. No heparin products give ?allergy.
   No documented hx of HIT in OMR. Bowel regimen
   # Access: PIV
   # Code: Full, confirmed with patient and ICU consent signed
   # Contact: [**Name (NI) 3728**] [**Name (NI) **] (mother) [**Telephone/Fax (1) 6117**]
   #Dispo: Will cont to monitor respiratory status, ICU level of care for
   now.
   ICU Care (as above)
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2125-11-2**] 12:50 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2125-11-03 12:02:00 Physician Attending Progress Note
Chief Complaint: respiratory distress
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   52 year male, [**Hospital1 169**] resident, with COPDon chronic oxygen with multiple
   admissions, baseline pCO2 70, tracheal stenosis s/p trach.
   Admitted with hypoxia after EUS for pancreatic mass- on further imaging
   did not appear concerning so biopxy not done
   Treated with steroids, nebs, mechanical ventilation
   24 Hour Events:
   Taken off vent
   On trach collar
   Still with productive cough but decreasing
   Dyspnea especially flares when anxious and in pain; but subtracting
   those factors, he still feels more SOB than at baseline
   History obtained from [**Hospital 85**] Medical records, ICU housestaff
   Allergies:
   Codeine
   Unknown;
   Compazine (Oral) (Prochlorperazine Maleate)
   Unknown;
   Penicillins
   Rash; itchiness
   Metformin
   Nausea/Vomiting
   Heparin Agents
   Unknown;
   Ativan (Oral) (Lorazepam)
   tachycardia;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2125-11-2**] 08:00 PM
   Hydromorphone (Dilaudid) - [**2125-11-3**] 05:28 AM
   Other medications:
   Solumedrol 125 mg IV q 8hours; albuterol every 2-3 hours; SSI, Colace,
   lasix. Fluticasone, Celexa, prn dilaudid (compression fx)
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2125-11-3**] 12:01 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 36.6
C (97.8
   HR: 75 (75 - 115) bpm
   BP: 122/76(87) {92/53(68) - 122/78(88)} mmHg
   RR: 13 (12 - 24) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 67 Inch
                  Total In:
                                                                    331 mL
                                                                    200 mL
   PO:
                                                                    200 mL
                                                                    200 mL
   TF:
   IVF:
                                                                    131 mL
   Blood products:
   Total out:
                                                                    650 mL
                                                                    700 mL
   Urine:
                                                                    650 mL
                                                                    700 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -319 mL
                                                                   -500 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   SpO2: 96%
   ABG: ///35/
   Physical Examination
   General Appearance: Well nourished, Overweight / Obese, Anxious
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva pale
   Head, Ears, Nose, Throat: No(t) Normocephalic, No(t) Poor dentition,
   No(t) Endotracheal tube, No(t) NG tube, No(t) OG tube, Trach
   Lymphatic: Cervical WNL
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal), No(t) S3, No(t) S4, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: No(t)
   Clear : , No(t) Crackles : , No(t) Bronchial: , No(t) Wheezes : ,
   Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, No(t) Distended, Obese
   Extremities: erythema lower extremities
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Purposeful, No(t) Sedated, No(t) Paralyzed, Tone:
   Normal
   Labs / Radiology
   11.4 g/dL
   326 K/uL
   139 mg/dL
   0.6 mg/dL
   35 mEq/L
   4.4 mEq/L
   16 mg/dL
   95 mEq/L
   137 mEq/L
   35.7 %
   19.2 K/uL
        [image002.jpg]
                            [**2125-11-1**]  01:54 PM
                            [**2125-11-1**]  02:51 PM
                            [**2125-11-2**]  04:38 AM
                            [**2125-11-3**]  05:59 AM
   WBC
   13.1
   11.0
   19.2
   Hct
   35.9
   33.7
   35.7
   Plt
   [**Telephone/Fax (3) 6161**]
   Cr
   0.6
   0.6
   0.6
   TCO2
   44
   Glucose
   128
   131
   139
   Other labs: PT / PTT / INR:12.5/30.6/1.1, Differential-Neuts:73.5 %,
   Lymph:11.3 %, Mono:9.7 %, Eos:5.0 %, Ca++:9.5 mg/dL, Mg++:2.2 mg/dL,
   PO4:2.9 mg/dL
   Assessment and Plan
 .H/O CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS,
   EMPHYSEMA) WITH ACUTE EXACERBATION
   - Now off mechanical ventilation, but still requiring frequent  nebs
   and suctioning
   -wean off oxygen as necessary
   - Will taper solumedrol ;  continue alb/atrov nebs
   - F/u sputum cultures. He has a history of resistant Pseudomonas but
   may be chronically colonized, so holding off on antiobiotics at the
   moment; appearance of IPMN
 Pancreatic mass: no immediate intervention planned, though f/u MRCP
   recommended in a few months
   DM, GERD: as per housestaff's note
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2125-11-2**] 12:50 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes

2125-11-04 07:27:00 Physician Resident Progress Note
Chief Complaint: Hypoxia
   24 Hour Events:
   - Walked around unit, satting >95% on 4L NC
   - Weaned from 3L NC/FiO2 50% trach mask to 3L NC/FiO2 35% NC
   Allergies:
   Codeine
   Unknown;
   Compazine (Oral) (Prochlorperazine Maleate)
   Unknown;
   Penicillins
   Rash; itchiness
   Metformin
   Nausea/Vomiting
   Heparin Agents
   Unknown;
   Ativan (Oral) (Lorazepam)
   tachycardia;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2125-11-3**] 08:21 AM
   Hydromorphone (Dilaudid) - [**2125-11-4**] 02:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Cardiovascular: No(t) Chest pain, No(t) Palpitations
   Respiratory: Cough, Dyspnea, Tachypnea
   Gastrointestinal: Abdominal pain, No(t) Nausea, No(t) Emesis
   Flowsheet Data as of  [**2125-11-4**] 07:27 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 36.5
C (97.7
   HR: 119 (71 - 129) bpm
   BP: 128/81(95) {100/65(75) - 131/100(105)} mmHg
   RR: 21 (13 - 25) insp/min
   SpO2: 90%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 67 Inch
                  Total In:
                                                                  1,190 mL
                                                                    350 mL
   PO:
                                                                  1,190 mL
                                                                    350 mL
   TF:
   IVF:
   Blood products:
   Total out:
                                                                  2,200 mL
                                                                  1,100 mL
   Urine:
                                                                  2,200 mL
                                                                  1,100 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,010 mL
                                                                   -750 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 90%
   ABG: ///40/
   Physical Examination
   General Appearance: No acute distress, Anxious
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Wheezes :
   occasional, Diminished: )
   Abdominal: Soft, Bowel sounds present, Tender: mildly tender diffusely
   Extremities: Right: Absent, Left: Absent
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): x3, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   307 K/uL
   11.7 g/dL
   89 mg/dL
   0.6 mg/dL
   40 mEq/L
   4.6 mEq/L
   17 mg/dL
   92 mEq/L
   140 mEq/L
   36.1 %
   16.9 K/uL
        [image002.jpg]
                            [**2125-11-1**]  01:54 PM
                            [**2125-11-1**]  02:51 PM
                            [**2125-11-2**]  04:38 AM
                            [**2125-11-3**]  05:59 AM
                            [**2125-11-4**]  04:02 AM
   WBC
   13.1
   11.0
   19.2
   16.9
   Hct
   35.9
   33.7
   35.7
   36.1
   Plt
   [**Telephone/Fax (3) 6172**]07
   Cr
   0.6
   0.6
   0.6
   0.6
   TCO2
   44
   Glucose
   128
   131
   139
   89
   Other labs: PT / PTT / INR:12.5/30.6/1.1, Differential-Neuts:73.5 %,
   Lymph:11.3 %, Mono:9.7 %, Eos:5.0 %, Ca++:9.2 mg/dL, Mg++:2.3 mg/dL,
   PO4:2.7 mg/dL
   Assessment and Plan
 .H/O CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS,
   EMPHYSEMA) WITH ACUTE EXACERBATION
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 RESPIRATORY FAILURE, CHRONIC
   52 yo M w/ severe COPD requiring multiple ICU admissions for mechanical
   ventilation, tracheal stenosis s/p tracheal stent in [**8-16**] presenting w/
   hypoxia after endoscopic U/S performed to eval pancreatic mass.
   # Hypercarbic respiratory failure/Severe 02 dependent COPD: Pt w/ sx
   consistent with COPD maybe even prior to presentation for EUS. Pt is on
   3L NC and 35% trach mask.  Pt was able to ambulate yesterday.  Pt
   Afebrile. Leukocytosis this morning which likely secondary to high dose
   steroids.
   - Try to wean off of trach mask
 has 3-4L NC oxygen requirement at
   baseline; goal O2 sat 92-95%
   - change Solumedrol from 60mg Q8 hours to prednisone 60mg daily (cont
   for 7-10day course)
   - Continue to hold off on antibiotics as no clear indication of
   infection at this time
   - Monitor sputum culture
   - Cont albuterol Q2 hours prn
   - Cont ipratroprium Q6 hours standing
   - Cont Advair
   # Pancreatic mass: Per EUS appears to be consistent with IPMN without
   red flags for invasive disease.
   - F/u MRCP in 4 mos
   - GI to follow
   #Chronic Back Pain: Pt with chronic back pain compliants.
   - Will cont dilaudid q3 prn
   # Multi-drug resistent pseudomonas: Likely colonized given chronic
   trach. no evidence of acute infection. Will check sputum cx to look for
   new organism
   # Hepatitis B: No active treatment at this time. Outpt management
   # Diabetes mellitus: Monitor QID FS, Insulin sliding scale
   # FEN: Diabetic diet, replete lytes as needed
   # PPx: On PPI for GERD, pneumoboots. No heparin products give ?allergy.
   No documented hx of HIT in OMR. Bowel regimen
   # Access: PIV
   # Code: Full, confirmed with patient and ICU consent signed
   # Contact: [**Name (NI) 3728**] [**Name (NI) **] (mother) [**Telephone/Fax (1) 6117**]
   #Dispo: Will cont to monitor respiratory status, ICU level of care for
   now.
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2125-11-2**] 12:50 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition:ICU

2125-11-04 12:30:00 Physician Attending Progress Note
Chief Complaint: shortness of breath
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   52 year old male with severe COPD on home oxygen, prior hx of trach
   Admitted with resp distress post-EUS for IPMN
   24 Hour Events:
   Steroids decreased
   Oxygen weaned to 35% TC/nc.2 liters
   History obtained from [**Hospital 85**] Medical records, [**Hospital Unit Name 44**] housestaff
   Allergies:
   Codeine
   Unknown;
   Compazine (Oral) (Prochlorperazine Maleate)
   Unknown;
   Penicillins
   Rash; itchiness
   Metformin
   Nausea/Vomiting
   Heparin Agents
   Unknown;
   Ativan (Oral) (Lorazepam)
   tachycardia;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2125-11-4**] 08:12 AM
   Hydromorphone (Dilaudid) - [**2125-11-4**] 11:40 AM
   Other medications:
   SSI, colace, lactulose, lasix, celexa, atrovent nebs q 6h, albuterol
   nebs q2h prn, solumedrol 60 mg IV q8h
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2125-11-4**] 12:29 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.2
C (97.1
   HR: 98 (71 - 119) bpm
   BP: 119/81(89) {100/18(37) - 131/100(105)} mmHg
   RR: 12 (12 - 25) insp/min
   SpO2: 93%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 67 Inch
                  Total In:
                                                                  1,190 mL
                                                                    350 mL
   PO:
                                                                  1,190 mL
                                                                    350 mL
   TF:
   IVF:
   Blood products:
   Total out:
                                                                  2,200 mL
                                                                  1,450 mL
   Urine:
                                                                  2,200 mL
                                                                  1,450 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,010 mL
                                                                 -1,100 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   SpO2: 93%
   ABG: ///40/
   Physical Examination
   General Appearance: Well nourished, Anxious, Cushingnoid
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal), No(t) S3,
   No(t) S4, No(t) Rub, (Murmur: No(t) Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Wheezes :
   expiratory, occasional, Diminished: )
   Abdominal: Soft, Bowel sounds present, Tender: diffuse, no
   guarding/rebound
   Extremities: No(t) Cyanosis
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Purposeful, No(t) Sedated, No(t) Paralyzed, Tone:
   Normal
   Labs / Radiology
   11.7 g/dL
   307 K/uL
   89 mg/dL
   0.6 mg/dL
   40 mEq/L
   4.6 mEq/L
   17 mg/dL
   92 mEq/L
   140 mEq/L
   36.1 %
   16.9 K/uL
        [image002.jpg]
                            [**2125-11-1**]  01:54 PM
                            [**2125-11-1**]  02:51 PM
                            [**2125-11-2**]  04:38 AM
                            [**2125-11-3**]  05:59 AM
                            [**2125-11-4**]  04:02 AM
   WBC
   13.1
   11.0
   19.2
   16.9
   Hct
   35.9
   33.7
   35.7
   36.1
   Plt
   [**Telephone/Fax (3) 6172**]07
   Cr
   0.6
   0.6
   0.6
   0.6
   TCO2
   44
   Glucose
   128
   131
   139
   89
   Other labs: PT / PTT / INR:12.5/30.6/1.1, Differential-Neuts:73.5 %,
   Lymph:11.3 %, Mono:9.7 %, Eos:5.0 %, Ca++:9.2 mg/dL, Mg++:2.3 mg/dL,
   PO4:2.7 mg/dL
   Microbiology: [**11-3**] PMN's, [**2-11**]+ GPC prs/clusters
   Assessment and Plan
 .H/O CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS,
   EMPHYSEMA) WITH ACUTE EXACERBATION
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 RESPIRATORY FAILURE, CHRONIC
   acute on chronic hypercarbic failure
   Overall slow improvement with reduced oxygen requirement and
   subjectively less SOB
   Underlying poor lung function, ongoing anxiety, and aggravation of
   dyspnea by anxiety remains major factors and may preclude immediate
   transfer
   Plan:
   *Continue steroid wean with switch from solumedrol to prednisone 60 mg
   daily
   *Continue to hold antibiotics- sputum cultures pending but suspect
   contaminant
   *Change to albuterol Q4H with Q2h prn for breakthrough- reduced dose
   may help with anxiety. No changes in atrovent q6h
   *Continue dilaudid for pain control; consider change to home dose of
   oxycontin later
   *Consider anti-anxiolytic such as Paxil
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2125-11-2**] 12:50 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent:

2125-11-05 06:34:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - walked around the unit; O2 monitor was not picking up well. Pt
   complained of light-headness. Did not tolerate as well as yesterday (pt
   was anxious). O2 sat was >95% when returned to room.
   - 2L NC/ FiO2 35%
   Allergies:
   Codeine
   Unknown;
   Compazine (Oral) (Prochlorperazine Maleate)
   Unknown;
   Penicillins
   Rash; itchiness
   Metformin
   Nausea/Vomiting
   Heparin Agents
   Unknown;
   Ativan (Oral) (Lorazepam)
   tachycardia;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2125-11-4**] 08:00 PM
   Hydromorphone (Dilaudid) - [**2125-11-5**] 05:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2125-11-5**] 06:34 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.6
C (97.8
   HR: 104 (73 - 125) bpm
   BP: 115/71(82) {82/18(37) - 133/90(97)} mmHg
   RR: 20 (12 - 26) insp/min
   SpO2: 95%
   Heart rhythm: SB (Sinus Bradycardia)
   Height: 67 Inch
                  Total In:
                                                                  1,230 mL
                                                                    320 mL
   PO:
                                                                  1,230 mL
                                                                    320 mL
   TF:
   IVF:
   Blood products:
   Total out:
                                                                  2,450 mL
                                                                    250 mL
   Urine:
                                                                  2,450 mL
                                                                    250 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,220 mL
                                                                     70 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   SpO2: 95%
   ABG: ///44/
   Physical Examination
   General Appearance: No acute distress, Anxious
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Wheezes :
   occasional, Diminished: )
   Abdominal: Soft, Bowel sounds present, Tender: mildly tender diffusely
   Extremities: Right: Absent, Left: Absent
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): x3, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   328 K/uL
   12.7 g/dL
   123 mg/dL
   0.7 mg/dL
   44 mEq/L
   3.7 mEq/L
   19 mg/dL
   93 mEq/L
   142 mEq/L
   39.1 %
   13.8 K/uL
        [image002.jpg]
                            [**2125-11-1**]  01:54 PM
                            [**2125-11-1**]  02:51 PM
                            [**2125-11-2**]  04:38 AM
                            [**2125-11-3**]  05:59 AM
                            [**2125-11-4**]  04:02 AM
                            [**2125-11-5**]  03:36 AM
   WBC
   13.1
   11.0
   19.2
   16.9
   13.8
   Hct
   35.9
   33.7
   35.7
   36.1
   39.1
   Plt
   [**Telephone/Fax (3) 6172**]07
   328
   Cr
   0.6
   0.6
   0.6
   0.6
   0.7
   TCO2
   44
   Glucose
   128
   131
   139
   89
   123
   Other labs: PT / PTT / INR:11.9/24.3/1.0, Differential-Neuts:73.5 %,
   Lymph:11.3 %, Mono:9.7 %, Eos:5.0 %, Ca++:9.5 mg/dL, Mg++:2.1 mg/dL,
   PO4:2.3 mg/dL
   Assessment and Plan
 ANXIETY
 .H/O CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS,
   EMPHYSEMA) WITH ACUTE EXACERBATION
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 RESPIRATORY FAILURE, CHRONIC
   52 yo M w/ severe COPD requiring multiple ICU admissions for mechanical
   ventilation, tracheal stenosis s/p tracheal stent in [**8-16**] presenting w/
   hypoxia after endoscopic U/S performed to eval pancreatic mass.
   # Hypercarbic respiratory failure/Severe 02 dependent COPD: Pt w/ sx
   consistent with COPD maybe even prior to presentation for EUS. Pt is on
   3L NC and 35% trach mask.  Pt was able to ambulate yesterday.  Pt
   Afebrile. Leukocytosis this morning which likely secondary to high dose
   steroids.
   - Try to wean off of trach mask
 has 3-4L NC oxygen requirement at
   baseline; goal O2 sat 92-95%
   - change Solumedrol from 60mg Q8 hours to prednisone 60mg daily (cont
   for 7-10day course)
   - Continue to hold off on antibiotics as no clear indication of
   infection at this time
   - Monitor sputum culture
   - Cont albuterol Q4 hours
   - Cont ipratroprium Q6 hours standing
   - Cont Advair
   # Pancreatic mass: Per EUS appears to be consistent with IPMN without
   red flags for invasive disease.
   - F/u MRCP in 4 mos
   - GI to follow
   #Chronic Back Pain: Pt with chronic back pain compliants.
   - Will cont dilaudid q3 prn
   # Multi-drug resistent pseudomonas: Likely colonized given chronic
   trach. no evidence of acute infection. Will check sputum cx to look for
   new organism
   # Hepatitis B: No active treatment at this time. Outpt management
   # Diabetes mellitus: Monitor QID FS, Insulin sliding scale
   # FEN: Diabetic diet, replete lytes as needed
   # PPx: On PPI for GERD, pneumoboots. No heparin products give ?allergy.
   No documented hx of HIT in OMR. Bowel regimen
   # Access: PIV
   # Code: Full, confirmed with patient and ICU consent signed
   # Contact: [**Name (NI) 3728**] [**Name (NI) **] (mother) [**Telephone/Fax (1) 6117**]
   #Dispo: Will cont to monitor respiratory status, ICU level of care for
   now.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2125-11-2**] 12:50 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2125-11-05 17:35:00 Physician Attending Progress Note
Chief Complaint: Shortness of breath
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   52 y.o. man with severe O2 dependent COPD, tracheal stenosis s/p
   tracheal stent presenting with acute on chronic hypercarbic/hypoxic
   respiratory failure.
   24 Hour Events:
   Secretions continue to increase, tan, thick.
   Anxiety.
   Solumedrol discontinued, started on oral prednisone.
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   Codeine
   Unknown;
   Compazine (Oral) (Prochlorperazine Maleate)
   Unknown;
   Penicillins
   Rash; itchiness
   Metformin
   Nausea/Vomiting
   Heparin Agents
   Unknown;
   Ativan (Oral) (Lorazepam)
   tachycardia;
   Last dose of Antibiotics:
   Vancomycin - [**2125-11-5**] 02:00 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2125-11-4**] 08:00 PM
   Hydromorphone (Dilaudid) - [**2125-11-5**] 02:30 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Nutritional Support: NPO
   Respiratory: Cough, Dyspnea
   Gastrointestinal: Bowel movement overnight
   Genitourinary: Foley
   Pain: [**1-10**] Minimal
   Flowsheet Data as of  [**2125-11-5**] 05:35 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 37.2
C (99
   HR: 122 (73 - 129) bpm
   BP: 118/75(84) {82/44(49) - 134/90(99)} mmHg
   RR: 15 (13 - 26) insp/min
   SpO2: 93%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 67 Inch
             Total In:
                                                                  1,230 mL
                                                                  1,240 mL
   PO:
                                                                  1,230 mL
                                                                  1,040 mL
   TF:
   IVF:
   200 mL
   Blood products:
   Total out:
                                                                  2,450 mL
                                                                  2,325 mL
   Urine:
                                                                  2,450 mL
                                                                  2,325 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,220 mL
                                                                 -1,085 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula, Trach mask
   FiO2: 2 L/min; 35% trach mask
   SpO2: 93%
   ABG: ///44/
   Physical Examination
   General Appearance: Anxious
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Diminished), (Left DP pulse: Diminished)
   Respiratory / Chest: (Breath Sounds: Diminished: , Rhonchorous: )
   Extremities: Right: 2+, Left: 2+, stasis changes
   Skin:  Warm
   Neurologic: Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   12.7 g/dL
   328 K/uL
   123 mg/dL
   0.7 mg/dL
   44 mEq/L
   3.7 mEq/L
   19 mg/dL
   93 mEq/L
   142 mEq/L
   39.1 %
   13.8 K/uL
        [image002.jpg]
                            [**2125-11-1**]  01:54 PM
                            [**2125-11-1**]  02:51 PM
                            [**2125-11-2**]  04:38 AM
                            [**2125-11-3**]  05:59 AM
                            [**2125-11-4**]  04:02 AM
                            [**2125-11-5**]  03:36 AM
   WBC
   13.1
   11.0
   19.2
   16.9
   13.8
   Hct
   35.9
   33.7
   35.7
   36.1
   39.1
   Plt
   [**Telephone/Fax (3) 6172**]07
   328
   Cr
   0.6
   0.6
   0.6
   0.6
   0.7
   TCO2
   44
   Glucose
   128
   131
   139
   89
   123
   Other labs: PT / PTT / INR:11.9/24.3/1.0, Differential-Neuts:73.5 %,
   Lymph:11.3 %, Mono:9.7 %, Eos:5.0 %, Ca++:9.5 mg/dL, Mg++:2.1 mg/dL,
   PO4:2.3 mg/dL
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE ON CHRONIC HYPERCAPNEIC/HYPOXIC:
   Underlying COPD exacerbation, with increasing secretions and no new
   infiltrates, concerned for tracheobronchitis.  Not improving
   significantly with steroids, bronchodilators.  Growing gram positive
   cocci on sputum gram stain.  Plan to start azithromycin/vanco.
   Follow-up on culture results.  Continue to monitor in ICU given tenuous
   respiratory status.
 ANXIETY: Likely related to worsening respiratory status, chronic
   problem for the patient.  Ativan prn.
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN):  managed on current regimen.
 PANCREATIC MASS:  Biopsy on hold given tenuous respiratory status.
 HYPERGLYCEMIA:  Poorly controlled secondary to high dose steroids.
   Regular insulin sliding scale, follow finger sticks.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2125-11-2**] 12:50 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Need for restraints reviewed
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes

2125-11-06 07:12:00 Physician Resident Progress Note
Chief Complaint: COPD exacerbation
   24 Hour Events:
   [**11-5**]
   - Vanco and azithro started
   - Evaled for LTAC with vents: [**Hospital1 6201**], [**Hospital1 630**], Radius - He's still
   unsure if he wants to go- he likes his old [**Hospital1 169**] as he knows people and
   all his friends are there
   History obtained from Patient
   Allergies:
   History obtained from PatientCodeine
   Unknown;
   Compazine (Oral) (Prochlorperazine Maleate)
   Unknown;
   Penicillins
   Rash; itchiness
   Metformin
   Nausea/Vomiting
   Heparin Agents
   Unknown;
   Ativan (Oral) (Lorazepam)
   tachycardia;
   Last dose of Antibiotics:
   Vancomycin - [**2125-11-6**] 02:00 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2125-11-5**] 08:04 PM
   Hydromorphone (Dilaudid) - [**2125-11-6**] 05:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Cardiovascular: No(t) Chest pain
   Respiratory: Cough, Dyspnea, Tachypnea, Wheeze
   Gastrointestinal: Abdominal pain, No(t) Nausea, No(t) Emesis
   Musculoskeletal: Joint pain, c/o severe back pain
   Neurologic: Numbness / tingling, No(t) Headache
   Psychiatric / Sleep: Delirious, pt states he thinks he may be starting
   to hear voices which he attributes to the prednisone
   Flowsheet Data as of  [**2125-11-6**] 07:11 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 36.5
C (97.7
   HR: 89 (81 - 129) bpm
   BP: 117/80(89) {110/18(52) - 172/141(148)} mmHg
   RR: 15 (14 - 30) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 67 Inch
             Total In:
                                                                  1,600 mL
                                                                    440 mL
   PO:
                                                                  1,400 mL
                                                                    240 mL
   TF:
   IVF:
                                                                    200 mL
                                                                    200 mL
   Blood products:
   Total out:
                                                                  3,050 mL
                                                                    525 mL
   Urine:
                                                                  3,050 mL
                                                                    525 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,450 mL
                                                                    -85 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   SpO2: 94%
   ABG: ///46/
   Physical Examination
   General Appearance: Well nourished, Overweight / Obese
   Head, Ears, Nose, Throat: Normocephalic, Poor dentition, trach tube in
   place
   Cardiovascular: (S1: Normal, No(t) Absent), (S2: Normal), (Murmur:
   No(t) Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   , Wheezes : diffuse, loud, expiratory wheezes)
   Abdominal: Soft, No(t) Non-tender, Bowel sounds present, Distended,
   Tender: diffusely tender to palpation
   Extremities: Right: 1+, Left: 1+
   Skin:  Warm, erythema bilat from mid shins down
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): x3, Movement: Purposeful, Tone: Normal
   Labs / Radiology
   301 K/uL
   11.3 g/dL
   86 mg/dL
   0.6 mg/dL
   46 mEq/L
   3.7 mEq/L
   15 mg/dL
   91 mEq/L
   142 mEq/L
   35.3 %
   12.8 K/uL
        [image002.jpg]
                            [**2125-11-1**]  01:54 PM
                            [**2125-11-1**]  02:51 PM
                            [**2125-11-2**]  04:38 AM
                            [**2125-11-3**]  05:59 AM
                            [**2125-11-4**]  04:02 AM
                            [**2125-11-5**]  03:36 AM
                            [**2125-11-6**]  05:22 AM
   WBC
   13.1
   11.0
   19.2
   16.9
   13.8
   12.8
   Hct
   35.9
   33.7
   35.7
   36.1
   39.1
   35.3
   Plt
   [**Telephone/Fax (3) 6202**]
   Cr
   0.6
   0.6
   0.6
   0.6
   0.7
   0.6
   TCO2
   44
   Glucose
   128
   131
   139
   89
   123
   86
   Other labs: PT / PTT / INR:11.9/24.3/1.0, Differential-Neuts:73.5 %,
   Lymph:11.3 %, Mono:9.7 %, Eos:5.0 %, Ca++:9.5 mg/dL, Mg++:2.2 mg/dL,
   PO4:3.6 mg/dL
   Assessment and Plan
 ANXIETY
 .H/O CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS,
   EMPHYSEMA) WITH ACUTE EXACERBATION
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 RESPIRATORY FAILURE, CHRONIC
   52 yo M w/ severe COPD requiring multiple ICU admissions for mechanical
   ventilation, tracheal stenosis s/p tracheal stent in [**8-16**] presenting w/
   hypoxia after endoscopic U/S performed to eval pancreatic mass.
   # Hypercarbic respiratory failure/Severe 02 dependent COPD: Pt remains
   on 3L NC and 35% trach mask.  Ambulating with desaturation. Afebrile.
   With resolving leukocytosis on decreased steroids. Sputum from [**11-2**]
   grew MRSA.
   - Cont to wean off of trach mask
 has 3-4L NC oxygen requirement at
   baseline; goal O2 sat 92-95%
   - Prednisone 60mg daily (cont for 7-10day course)- pt states in the
   past with this level of steroids, he has needed 1mg Risperdone daily as
   he has heard voices with this in the past.
   -Cont vanc ([**7-19**] day course) and azithro (5days)  for PNA
   - Cont albuterol nebs
   - Cont ipratroprium nebs
   - Cont Advair
   # Pancreatic mass: Per EUS appears to be consistent with IPMN without
   red flags for invasive disease.
   - F/u MRCP in 4 mos
   - GI to follow
   #Chronic Back Pain: Pt with chronic back pain compliants.
   -  Cont dilaudid q3 prn, Oxycodone 5-10mg Q 4hrs PRN
   # Multi-drug resistent pseudomonas: Likely colonized given chronic
   trach. no evidence of acute infection. Not seen in sputum cx
   # Hepatitis B: No active treatment at this time. Outpt management
   # Diabetes mellitus: Monitor QID FS, Insulin sliding scale
   # FEN: Diabetic diet, replete lytes PRN
   # PPx: On PPI for GERD, pneumoboots. No heparin products give ?allergy.
   No documented hx of HIT in OMR. Bowel regimen
   # Access: PIV
   # Code: Full, confirmed with patient and ICU consent signed
   # Contact: [**Name (NI) 3728**] [**Name (NI) **] (mother) [**Telephone/Fax (1) 6117**]
   #Dispo: Cont ICU level of care for now, Case Management screening
   potential placement in LTAC with vents
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2125-11-2**] 12:50 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ------ Protected Section ------
   In addition to the above plan, during rounds we decided that the pt is
   ready for transfer to the floor. We will attempt to place a PICC line
   today. ABX should be continued for 10 days. Prednisone is currenly 60mg
   daily and should be very slowly tapered. Risperdone 1mg PO Daily PRN
   was ordered to help with pt agitation on steroids.
   ------ Protected Section Addendum Entered By:[**Name (NI) 6210**] [**Last Name (NamePattern1) 1112**], MD
   on:[**2125-11-6**] 12:47 ------

2125-11-06 13:31:00 Physician Attending Progress Note
Chief Complaint: dyspnea
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   52 y.o. male with severe oxygen dependent COPD, s/p trach, with
   tracheobronchitis and acute on chronic respiratory failure
   24 Hour Events:
   Sputum culture growing MRSA
   Continues vancomycin/azithromycin, day #2
   Secretions improved, requiring suctioning less than every 4-6 hours.
                           History obtained from Patient
   Allergies:
   Codeine
   Unknown;
   Compazine (Oral) (Prochlorperazine Maleate)
   Unknown;
   Penicillins
   Rash; itchiness
   Metformin
   Nausea/Vomiting
   Heparin Agents
   Unknown;
   Ativan (Oral) (Lorazepam)
   tachycardia;
   Last dose of Antibiotics:
   Vancomycin - [**2125-11-6**] 02:00 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2125-11-5**] 08:04 PM
   Hydromorphone (Dilaudid) - [**2125-11-6**] 08:30 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Respiratory: Cough, Dyspnea
   Genitourinary: Foley
   Musculoskeletal: Joint pain, right foot, second and third toe
   Endocrine: Hyperglycemia
   Pain: [**1-10**] Minimal
   Flowsheet Data as of  [**2125-11-6**] 01:30 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 37
C (98.6
   HR: 123 (81 - 123) bpm
   BP: 120/71(83) {110/18(52) - 172/141(148)} mmHg
   RR: 18 (12 - 30) insp/min
   SpO2: 91%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 67 Inch
             Total In:
                                                                  1,600 mL
                                                                    800 mL
   PO:
                                                                  1,400 mL
                                                                    600 mL
   TF:
   IVF:
                                                                    200 mL
                                                                    200 mL
   Blood products:
   Total out:
                                                                  3,050 mL
                                                                    625 mL
   Urine:
                                                                  3,050 mL
                                                                    625 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,450 mL
                                                                    175 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula, Trach mask
   SpO2: 91%
   ABG: ///46/
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Diminished), (Left DP pulse: Diminished)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Wheezes :
   bilaterally, Diminished: , Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 2+, Left: 2+, R 2nd and 3rd toes without warmth,
   effusion, tophi; moderately painful to touch
   Skin:  Warm, chronic venous stasis changes [**Name Prefix (Prefixes) **]
   [**Last Name (Prefixes) 1528**]: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed, grossly nonfocal
   motor exam
   Labs / Radiology
   11.3 g/dL
   301 K/uL
   86 mg/dL
   0.6 mg/dL
   46 mEq/L
   3.7 mEq/L
   15 mg/dL
   91 mEq/L
   142 mEq/L
   35.3 %
   12.8 K/uL
        [image002.jpg]
                            [**2125-11-1**]  01:54 PM
                            [**2125-11-1**]  02:51 PM
                            [**2125-11-2**]  04:38 AM
                            [**2125-11-3**]  05:59 AM
                            [**2125-11-4**]  04:02 AM
                            [**2125-11-5**]  03:36 AM
                            [**2125-11-6**]  05:22 AM
   WBC
   13.1
   11.0
   19.2
   16.9
   13.8
   12.8
   Hct
   35.9
   33.7
   35.7
   36.1
   39.1
   35.3
   Plt
   [**Telephone/Fax (2) 6202**]
   Cr
   0.6
   0.6
   0.6
   0.6
   0.7
   0.6
   TCO2
   44
   Glucose
   128
   131
   139
   89
   123
   86
   Other labs: PT / PTT / INR:11.9/24.3/1.0, Differential-Neuts:73.5 %,
   Lymph:11.3 %, Mono:9.7 %, Eos:5.0 %, Ca++:9.5 mg/dL, Mg++:2.2 mg/dL,
   PO4:3.6 mg/dL
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE ON CHRONIC: Secondary to COPD exacerbation
   with MRSA tracheobronchitis.  Continue current abx, plan a 10 day
   course, continue prednisone with slow taper and nebs.  Suctioning prn.
 ANXIETY:  Longstanding problem, on anxiolytics as well as pain meds.
   Continues to have difficulty with sleep albeit feels a bit better today
   and is hopeful he can get some rest without adding to current
   medications.
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN): Continue current regimen.
 DIABETES MELLITUS: Poor glucose control requiring sliding scale
   insulin on steroids.  Continue diabetic diet.
 RIGHT TOE PAIN: No history of gout.  No history of trauma.  Not
   exquisitely tender as with gout and large toe not involved.  Follow
   clinically for now.
   In aggreement with assessment and plan by medical house officer.
   ICU Care
   Nutrition:
   Comments: Diabetic diet
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2125-11-6**] 07:30 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Need for restraints reviewed
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 30 minutes